US04230703
5,6-Dihydro-5-methyl-11-oxodibenz[b,e]azepine-3-acetic acid was esterified with methanol-sulfuric acid in a customary manner to afford methyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-3-acetate having a melting point of 88.4°-90.5° C.

reactant | 5,6-Dihydro-5-methyl-11-oxodibenz[b,e]azepine-3-acetic acid | CN1C2=C(C(C3=C(C1)C=CC=C3)=O)C=CC(=C2)CC(=O)O | C17H15NO3
reactant | methanol sulfuric acid | CO.S(O)(O)(=O)=O
product | methyl 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine-3-acetate | CN1C2=C(C(C3=C(C1)C=CC=C3)=O)C=CC(=C2)CC(=O)OC | C18H17NO3
